US06897224B2
5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]quinoline-2-carboxylic acid methyl ester
Analogously to Example 40, 420 mg (0.85 mmol) of 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino] quinoline-2-carboxylic acid methyl ester is dissolved in 10 ml of methanol and mixed with 130 mg (3.41 mmol) of sodium borohydride. After chromatography on silica gel with hexane-ethyl acetate (0-100%), 75 mg (18% of theory) of the product is obtained.

reactant | 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino] quinoline-2-carboxylic acid methyl ester | 0.85 mmol, 420 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C25H24F4N2O4
reactant | sodium borohydride | 3.41 mmol, 130 mg | [BH4-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 10 ml | CO | CH4O
product | 5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C25H26F4N2O4
